US08334315B2
5-bromo-1-(methylsulphonyl)indoline (13.4 mmol, 3.7 g) and ethyl-2-chloropropionate (17.4 mmol, 2.38 g) were dissolved in DMF (7 ml) in a protective gas atmosphere at room temperature. Subsequently, manganese (26.8 mmol, 1.47 g), (2,2′-bipyridine) nickel(II)-dibromide (0.938 mmol, 0.351 g) and TFA (0.348 mmol, 27 μl) were added and stirring was carried out at 50° C. for 1.5 h. After cooling the reaction mixture to room temperature, hydrolysis was carried out at room temperature with 1 N HCl (25 ml) and the mixture was extracted with diethyl ether (3×25 ml). The combined organic phases were washed with water (25 ml) and aq. sat. NaCl solution (25 ml) and dried over magnesium sulphate. After removing the solvent in a vacuum and purifying the residue by column chromatography (SiO2, diethyl ether/hexane=3:1), 0.558 g (14% yield) of ethyl 2-(1-(methylsulphonyl)indolin-5-yl)propanoate were obtained.

reactant | 5-bromo-1-(methylsulphonyl)indoline | 13.4 mmol, 3.7 g | BrC=1C=C2CCN(C2=CC1)S(=O)(=O)C | C9H10BrNO2S
reactant | ethyl-2-chloropropionate | 17.4 mmol, 2.38 g | C(C)OC(C(C)Cl)=O | C5H9ClO2
reactant | TFA | 0.348 mmol, 27 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1 N, 25 ml | Cl | ClH
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
catalyst | manganese | 26.8 mmol, 1.47 g | [Mn] | Mn
catalyst | (2,2′-bipyridine) nickel(II)-dibromide | 0.938 mmol, 0.351 g | [Ni](Br)Br.N1=C(C=CC=C1)C1=NC=CC=C1
product | ethyl 2-(1-(methylsulphonyl)indolin-5-yl)propanoate | 0.558 g, 14% yield | CS(=O)(=O)N1CCC2=CC(=CC=C12)C(C(=O)OCC)C | C14H19NO4S
